US08791102B2
Proceeding as in Reference 5, but substituting 4-(5-bromothiazol-2-yloxy)aniline and (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid, gave (S)-2-amino-3-(benzyloxy)-N-(4-(5-bromothiazol-2-yloxy)phenyl)propanamide (200 mg, 20%).

reactant | 4-(5-bromothiazol-2-yloxy)aniline | BrC1=CN=C(S1)OC1=CC=C(N)C=C1 | C9H7BrN2OS
reactant | (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
product | (S)-2-amino-3-(benzyloxy)-N-(4-(5-bromothiazol-2-yloxy)phenyl)propanamide | 200 mg, 20% | N[C@H](C(=O)NC1=CC=C(C=C1)OC=1SC(=CN1)Br)COCC1=CC=CC=C1 | C19H18BrN3O3S
